US06849636B2
(Trimethylsilyl)diazomethane (2M/hexane, 53 mL, 106 mmol) was added slowly to a solution of 4-pentylbicyclo[2.2.2]octane-1-carboxylic acid (2-A) (20.3 g, 90.6 mmol) in methylene chloride (100 mL) and methanol (40 mL) until the yellow color persisted. After stirring for 10 min at room temperature, the solution was concentrated in vacuo to give methyl 4-pentylbicyclo[2.2.2]octane-1-carboxylate (2-B). 1H NMR (500 MHz, CDCl3): δ 0.89 (t, 3H); 1.20 (m, 8H); 1.39 (m, 6H); 1.77 (m, 6H); 3.65 (s, 3H) ppm.

reactant | (Trimethylsilyl)diazomethane | 106 mmol, 2M, 53 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 4-pentylbicyclo[2.2.2]octane-1-carboxylic acid | 90.6 mmol, 20.3 g | C(CCCC)C12CCC(CC1)(CC2)C(=O)O | C14H24O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 40 mL | CO | CH4O
product | methyl 4-pentylbicyclo[2.2.2]octane-1-carboxylate | C(CCCC)C12CCC(CC1)(CC2)C(=O)OC | C15H26O2
